US06051712
To a solution of 100 mg (0.22 mmol) of tert-butyl (3RS,4RS)-4-(4-hydroxymethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate in 10 ml of tetrahydrofuran were added 68 mg (0.66 mmol) of triethylamine and thereafter dropwise at 0° C. 25 mg (0.26 mmol) of methanesulphonyl chloride. The reaction solution was stirred at room temperature for 90 minutes, thereafter 38 mg (0.33 mmol) of 2-mercaptopyrimidine were added and the mixture was stirred at room temperature for a further 18 hours. For the working-up, the reaction mixture was evaporated under reduced pressure, the residue was taken up in 20 ml of methylene chloride and then extracted with 10 ml of water. The organic phase was dried over sodium sulphate and subsequently evaporated under reduced pressure. For purification, the crude product was chromatographed on silica gel using a 5:1 mixture of hexane and ethyl acetate as the eluent. There were obtained 100 mg (82% of theory) of tert-butyl (3RS,4RS)-3-naphthalen-2-ylmethoxy-4-[4-(pyrimidin-2-ylsulphanylmethyl)-phenyl]-piperidine-1-carboxylate as a yellowish oil; MS: 542 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-(4-hydroxymethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | 0.22 mmol, 100 mg | OCC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C28H33NO4
reactant | triethylamine | 0.66 mmol, 68 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.26 mmol, 25 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-mercaptopyrimidine | 0.33 mmol, 38 mg | SC1=NC=CC=N1 | C4H4N2S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-butyl (3RS,4RS)-3-naphthalen-2-ylmethoxy-4-[4-(pyrimidin-2-ylsulphanylmethyl)-phenyl]-piperidine-1-carboxylate | 100 mg, 82% | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)CSC1=NC=CC=N1)C(=O)OC(C)(C)C | C32H35N3O3S
